US08232312B2
6-amino-1-methyl-1H-indole-3-carboxylic acid
12 g 6-nitro-1-methyl-1H-indole-3-carboxylic acid are dissolved in 500 ml of water, 60 ml 1 N sodium hydroxide solution and 30 ml of methanol. 1.2 g Raney nickel are added and the mixture is hydrogenated for 26 hours at 1.5 bar. Then the catalyst is filtered off and the solvent is eliminated in vacuo. The residue is suspended in 100 ml of pyridine. 16.3 g 3,5-dichlorophenylsulphonyl chloride are added and the mixture is stirred overnight at ambient temperature. The pyridine is eliminated in vacuo. The residue is divided between water and ethyl acetate and the pH is adjusted to 5 by the addition of citric acid. The aqueous phase is extracted 3 times with ethyl acetate and the combined organic phases are dried on magnesium sulphate. After elimination of the solvents the residue is chromatographed on silica gel (dichloromethane/methanol/acetic acid 95:5:1 to 89:10:1)

reactant | 6-nitro-1-methyl-1H-indole-3-carboxylic acid | 12 g | [N+](=O)([O-])C1=CC=C2C(=CN(C2=C1)C)C(=O)O | C10H8N2O4
reactant | sodium hydroxide | 1 N, 60 ml | [OH-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
catalyst | Raney nickel | 1.2 g | [Ni] | Ni
product | 6-amino-1-methyl-1H-indole-3-carboxylic acid | NC1=CC=C2C(=CN(C2=C1)C)C(=O)O | C10H10N2O2
